### PR TITLE
[Merged by Bors] - feat: add `sq_le_sq₀` convenience lemma

### PR DESCRIPTION
**Pull request by j-loreaux**
---

It annoys me every time I reach for this and it doesn't exist. Note that we have `sq_eq_sq₀` for the equality case with the same hypotheses. Unfortunately, the existing `sq_le_sq` has type `a ^ 2 ≤ b ^ 2 ↔ |a| ≤ |b|`, which is often not what I want. (Of course, it is possible to get there by chaining with `abs_nonneg`, but then you have to rewrite three times instead of just once.)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Ring/Abs.lean [hunk 1]
```diff
@@ -94,16 +94,20 @@ lemma abs_le_one_iff_mul_self_le_one : |a| ≤ 1 ↔ a * a ≤ 1 := by
 
 lemma abs_sq (x : α) : |x ^ 2| = x ^ 2 := by simpa only [sq] using abs_mul_self x
 
+lemma sq_lt_sq_iff_of_nonneg (ha : 0 ≤ a) (hb : 0 ≤ b) : a ^ 2 < b ^ 2 ↔ a < b :=
+  (pow_left_strictMonoOn₀ two_ne_zero).lt_iff_lt ha hb
```
Comment (dwrensha) [inline Mathlib/Algebra/Order/Ring/Abs.lean:98]: How about [`pow_lt_pow_iff_left₀`](https://github.com/leanprover-community/mathlib4/blob/197eebfa5455aa09b7a4c2ad3c3eb9123245df90/Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean#L1220-L1221) instead?
```lean
lemma sq_lt_sq_iff_of_nonneg (ha : 0 ≤ a) (hb : 0 ≤ b) : a ^ 2 < b ^ 2 ↔ a < b :=
  pow_lt_pow_iff_left₀ ha hb two_ne_zero
```

Would it make more sense to put this new lemma (which does not directly pertain to `abs`) in `Algebra.Order.GroupWithZero.Unbundled`, immediately after `pow_lt_pow_iff_left₀`?

File: Mathlib/Algebra/Order/Ring/Abs.lean [hunk 2]
```diff
@@ -94,16 +94,20 @@ lemma abs_le_one_iff_mul_self_le_one : |a| ≤ 1 ↔ a * a ≤ 1 := by
...
 lemma sq_lt_sq : a ^ 2 < b ^ 2 ↔ |a| < |b| := by
-  simpa only [sq_abs] using
-    (pow_left_strictMonoOn₀ two_ne_zero).lt_iff_lt (abs_nonneg a) (abs_nonneg b)
+  simpa only [sq_abs] using sq_lt_sq_iff_of_nonneg (abs_nonneg a) (abs_nonneg b)
 
 lemma sq_lt_sq' (h1 : -b < a) (h2 : a < b) : a ^ 2 < b ^ 2 :=
   sq_lt_sq.2 (lt_of_lt_of_le (abs_lt.2 ⟨h1, h2⟩) (le_abs_self _))
 
+lemma sq_le_sq_iff_of_nonneg (ha : 0 ≤ a) (hb : 0 ≤ b) : a ^ 2 ≤ b ^ 2 ↔ a ≤ b :=
+  (pow_left_strictMonoOn₀ two_ne_zero).le_iff_le ha hb
```
Comment (dwrensha) [inline Mathlib/Algebra/Order/Ring/Abs.lean:107]: What about [`pow_le_pow_iff_left₀`](https://github.com/leanprover-community/mathlib4/blob/197eebfa5455aa09b7a4c2ad3c3eb9123245df90/Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean#L1217-L1218)?

**Review by dwrensha — COMMENTED** [review]
> Note that we have `sq_eq_sq₀` for the equality case with the same hypotheses

[`sq_eq_sq₀`](https://github.com/leanprover-community/mathlib4/blob/197eebfa5455aa09b7a4c2ad3c3eb9123245df90/Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean#L1269-L1270) lives in `Algebra.Order.GroupWithZero.Unbundled`, so that file feels to me like the natural place for your two new lemmas.

**Comment by dwrensha** [comment]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
